US07442839B2
i) 6-Bromohexyl 4-(3-bromophenyl)butyl ether
A stirred mixture of 4-3-bromophenyl) butan-1-ol (18 g) (EP 0 995 752A1), 1,6 dibromohexane (48 ml), tetrabutylammonium bromide (1.5 g) and 50% aqueous sodium hydroxide solution (500 ml) was stirred for 2 days at ambient temperature. The mixture was poured into water (1000 ml) and extracted into ethyl acetate. The combined extracts were washed with water, dried (Na2SO4) and evaporated. The residual oil was purified on the biotage eluting with light petroleum (40-60° C.), and then light petroleum (40-60° C.)-ether (9:1). The appropriate fractions were evaporated to give the title compound (18 g) LCMS RT=4.34 min.

reactant | butan-1-ol | 18 g | C(CCC)O | C4H10O
reactant | 1,6 dibromohexane | 48 ml | BrCCCCCCBr | C6H12Br2
reactant | sodium hydroxide | 500 ml | [OH-].[Na+]
catalyst | tetrabutylammonium bromide | 1.5 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 1000 ml | O | H2O
product | 6-Bromohexyl 4-(3-bromophenyl)butyl ether | 18 g | BrC=1C=C(C=CC1)CCCCOCCCCCCBr | C16H24Br2O
